US08252798B2
8-(2-Chloro-phenyl)-6-(4-ethyl-piperazin-1-yl)-2-methyl-9-(tetrahydro-pyran-4-yl)-9H-purine hydrochloride salt
Heat a solution of 6-chloro-8-(2-chlorophenyl)-2-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purine (0.0005 mol, 0.2 g), N-ethyl piperazine (0.0006 mol, 0.069 g, 1.1 equiv.), and triethylamine (0.0006 mol, 0.061 g, 1.1 equiv.) in ethanol (5.0 mL) at reflux for 20 hours. Alternatively, heat the reaction with microwave irradiation. Upon reaction completion, concentrate the reaction mixture under reduced pressure. Dissolve the residue in dry dichloromethane and wash with saturated sodium bicarbonate solution, water, and brine. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate under reduced pressure to give the residue. Purify by silica gel chromatography eluting with hexanes:acetone 90:10 to give the freebase. Add HCl (2M solution in ethanol) (1.0 equiv.) to the freebase (0.23 g, 0.500 mmol) in diethyl ether (5 mL) at 0° C. and stir for 2 hours at room temperature. Filter and wash precipitate with diethyl ether. Dry the precipitate under vacuum to give the title compound (0.2 g). MS (m/z): 441.28 (M+1). Alternatively, prepare the HCl salt by dissolving the freebase in acetone, 1:1 acetonitrile:water, or another suitable organic solvent, then add with stirring a solution of aqueous or ethereal HCl. Then lyophilize to afford the hydrochloride salt.

reactant | 6-chloro-8-(2-chlorophenyl)-2-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purine | 0.0005 mol, 0.2 g | ClC1=C2N=C(N(C2=NC(=N1)C)C1CCOCC1)C1=C(C=CC=C1)Cl | C17H16Cl2N4O
reactant | N-ethyl piperazine | 0.0006 mol, 0.069 g, 1.1 equiv. | C(C)N1CCNCC1 | C6H14N2
reactant | triethylamine | 0.0006 mol, 0.061 g, 1.1 equiv. | C(C)N(CC)CC | C6H15N
reactant | HCl | 2M, 1.0 equiv. | Cl | ClH
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 8-(2-Chloro-phenyl)-6-(4-ethyl-piperazin-1-yl)-2-methyl-9-(tetrahydro-pyran-4-yl)-9H-purine hydrochloride salt | 0.2 g | Cl.ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)CC)C)C1CCOCC1 | InChI=1S/C23H29ClN6O.ClH/c1-3-28-10-12-29(13-11-28)22-20-23(26-16(2)25-22)30(17-8-14-31-15-9-17)21(27-20)18-6-4-5-7-19(18)24;/h4-7,17H,3,8-15H2,1-2H3;1H
